US05362906
Step 2: [1-Hydroxy-(E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl]phosphonic acid
To a stirred solution of dimethyl [1-hydroxy-(E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl]phosphonate (67 mg, 0.203 mmol) and 2,4,6-collidine (0.107 ml, 0.81 mmol)in dichloromethane (3 ml) under argon at 0° C., was added trimethylsilyl bromide (0.107 ml, 0.8 mmol) and the resulting mixture stirred at 0° C. for 30 min and then at r.t. for 5 hrs. The resulting white suspension was diluted with toluene (10 ml) and the solvent evaporated in vacuo, the resulting white solid was dissolved in ethylacetate and water and the pH was adjusted to pH=3 by the addition of 1M HCl solution. The organic layer was separated, dried (MgSO4) and evaporated to afford a pale yellow solid. The-solid was washed with dichloromethane (2×5 ml) and the white solid filtered off and dried in vacuo to afford the title compound.

reactant | dimethyl [1-hydroxy-(E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl]phosphonate | 0.203 mmol, 67 mg | OC(\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(OC)(OC)=O | C17H31O4P
reactant | 2,4,6-collidine | 0.81 mmol, 0.107 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | trimethylsilyl bromide | 0.8 mmol, 0.107 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [1-Hydroxy-(E,E)-3,7,11-trimethyl-2,6,10-dodecatrienyl]phosphonic acid | OC(\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(O)(O)=O | C15H27O4P
